US07875645B2
3-[3-(1H-Imidazol-2-ylmethyl)-phenyl]-pyridine was prepared from rac-(1H-imidazol-2-yl)-(3-pyridin-3-yl-phenyl)-methanol, triethylsilane and trifluoroacetic acid in analogy to Example 191e): white crystals; MS (ISP): 236.4 ([M+H]+, 100%).

reactant | rac-(1H-imidazol-2-yl)-(3-pyridin-3-yl-phenyl)-methanol | N1C(=NC=C1)C(O)C1=CC(=CC=C1)C=1C=NC=CC1 | C15H13N3O
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[3-(1H-Imidazol-2-ylmethyl)-phenyl]-pyridine | N1C(=NC=C1)CC=1C=C(C=CC1)C=1C=NC=CC1 | C15H13N3
